US07223769B2
First, 0.23 g of 4,6-dichloropyrimidine and 0.2 g of 2,2-dichloro-1-propanol were dissolved in 2 ml of tetrahydrofuran, to which 0.07 g of sodium hydride (60% in oil) was added at 0° C., followed by stirring at the same temperature for 2 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution, which was extracted three times with t-butyl methyl ether. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel chromatography to give 0.18 g of 4-chloro-6-(2,2-dichloropropyloxy)pyrimidine.

reactant | 4,6-dichloropyrimidine | 0.23 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 2,2-dichloro-1-propanol | 0.2 g | ClC(CO)(C)Cl | C3H6Cl2O
reactant | sodium hydride | 0.07 g | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-chloro-6-(2,2-dichloropropyloxy)pyrimidine | 0.18 g | ClC1=NC=NC(=C1)OCC(C)(Cl)Cl | C7H7Cl3N2O
